US06881743B2
Pyridine-2,4-dicarboxylic acid bis-(3-methoxy-benzylamide)
To a solution of 2,4-pyridinedicarboxylic acid (1.0 g, 6.0 mmol) in methylene chloride (40 mL) was added 1-hydroxybenzotriazole hydrate (HOBt) (2.03 g, 15 mmol), 3-methoxy-benzyl amine (1.53 mL, 12.0 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDAC) (2.88 g, 15 mmol). The solution was stirred for 24 hours at room temperature and then evaporated at reduced pressure to give an oil. The oil was partitioned between hot ethyl acetate and hot water. The organic phase was then washed with saturated sodium bicarbonate, water, and finally brine. The organic phase was dried over magnesium sulfate and evaporated at reduced pressure to give an orange oil. This was purified by MPLC chromatography using silica gel and 1:1, hexane:ethyl acetate. The oil fractions shown by thin layer chromatography (tlc) to contain the major product were combined, and the solvent was removed by evaporation under reduced pressure to give 1.85 g (76%) of the titled compound as a clear oil. MS: M+1=406.1; Microanalysis (C23H23N3O4): Calculated (Calc'd): C=68.13, H=5.97, N=10.36. Found: C=68.05, H=5.97, N=10.23.

reactant | 2,4-pyridinedicarboxylic acid | 6.0 mmol, 1.0 g | N1=C(C=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | 1-hydroxybenzotriazole hydrate | 15 mmol, 2.03 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3-methoxy-benzyl amine | 12.0 mmol, 1.53 mL | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 15 mmol, 2.88 g | Cl.CN(CCCN=C=NCC)C
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Pyridine-2,4-dicarboxylic acid bis-(3-methoxy-benzylamide) | 1.85 g, 76% | COC=1C=C(CNC(=O)C2=NC=CC(=C2)C(=O)NCC2=CC(=CC=C2)OC)C=CC1 | C23H23N3O4
